US09085555B2
(3-Aminomethyl-5-chloro-4-fluoro-benzyl)-(2-methoxy-ethyl)-methyl-amine
was prepared according to Scheme C2 (step D) from (3-chloro-2-fluoro-5-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester (222 mg, 0.47 mmol) and 4N HCl in dioxane. MS (LC-MS): 261.0 [M]+.

reactant | (3-chloro-2-fluoro-5-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester | 0.47 mmol, 222 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN(C)CCOC)Cl)F)=O | C17H26ClFN2O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3-Aminomethyl-5-chloro-4-fluoro-benzyl)-(2-methoxy-ethyl)-methyl-amine | NCC=1C=C(CN(C)CCOC)C=C(C1F)Cl | C12H18ClFN2O
